US05334225
To 50 ml of ethyl acetate, there were added 4.61 g (24.4 mmol) of N-(tert-butoxycarbonyl)-β-alanine and 5.03 g (24.4 mmol) of N,N'-dicyclohexyl carbodiimide and stirred at room temperature for 30 minutes. To the solution thus obtained, there were added 3.00 g (24.4 mmol) of 6-amino-m-cresol and 2.51 g (24.4 mmol) of triethylamine and stirred at room temperature for 17 hours. After the completion of the reaction, 100 ml of ethyl acetate was added to the solution. After filtering insoluble crystals, the filtrate was washed with 1N hydrochloric acid, a saturated aqueous solution of sodium hydrogencarbonate and a saturated aqueous solution of common salt and dried over anhydrous Glauber's salt. After distilling off the solvent under reduced pressure, the brown solid thus obtained was subjected to silica gel column chromatography (Si60 manufactured by Merck; 230-400 mesh; 300 g; eluent: 5% methanol-chloroform). After distilling off the solvent from the 600-1,200 ml fraction under reduced pressure, pale brown crystals were obtained. These crystals were recrystallized from chloroform and thus 1.56 g (5.3 mmol) of N-(2-hydroxy-4-methylphenyl)-3-(tert-butoxy-carbonyl)aminopropionamide was obtained as pale brown crystals. The yield was 22%.

reactant | N-(tert-butoxycarbonyl)-β-alanine | 24.4 mmol, 4.61 g | C(C)(C)(C)OC(=O)NCCC(=O)O | C8H15NO4
reactant | N,N'-dicyclohexyl carbodiimide | 24.4 mmol, 5.03 g | C1(CCCCC1)N=C=NC1CCCCC1 | C13H22N2
reactant | 6-amino-m-cresol | 24.4 mmol, 3.00 g | NC=1C=CC(=CC1O)C | C7H9NO
reactant | triethylamine | 24.4 mmol, 2.51 g | C(C)N(CC)CC | C6H15N
solvent | methanol chloroform | CO.C(Cl)(Cl)Cl
solvent | ethyl acetate | 100 ml | C(C)(=O)OCC | C4H8O2
solvent | ethyl acetate | 50 ml | C(C)(=O)OCC | C4H8O2
product | N-(2-hydroxy-4-methylphenyl)-3-(tert-butoxy-carbonyl)aminopropionamide | 5.3 mmol, 1.56 g, yield was 22% | OC1=C(C=CC(=C1)C)NC(CCNC(=O)OC(C)(C)C)=O | C15H22N2O4
